* C:\Users\User\Repos\E4-TP2-G2\Simulaciones\SG3525_conection.asc
Css N007 0 5µ
CT N003 0 3.3n
XU1 N001 Vref_comp NC_01 Vosc N003 N004 N003 N007 PWM_in 0 N005 0 Vmed N002 Vmed Vref SG3525A
R1 Vo_comp Vmed 33k
R2 0 Vo_comp 5.6k
R4 Vref_comp Vref 12k
R5 0 Vref_comp 10k
Rg VG N002 56
Rlim_ninv N001 Vo_comp 500
RT N004 0 2.7k
Cd Vmed 0 100n
V2 Vmed 0 PULSE(15 17 0 25u 25u 1n 50u 1000)
R6 N006 N005 56
R3 PWM_in N001 10k
* fsw= 2/(CT*(RT*0.7))
* Con CT=6.8nF y RT = 2.8kOhm\n=> fsw = 75KHz
.inc SG3525A.sub
* Frecuencia
* Vo_comp = 2.54V
* Vref_comp = 2.55V
* Divisor Vo
* Divisor Vref
.tran 0 100u 0 0.1u
.backanno
.end
