* C:\Users\User\Repos\E4-TP2-G2\Simulaciones\SG3525_conection.asc
Css N005 0 5µ
CT N003 0 3.3n
XU1 N001 Vref_comp NC_01 Vosc N003 N004 N003 N005 PWM_in 0 NC_02 0 Vmed N002 Vmed Vref SG3525A
Rb Vo_comp Vmed 33k
Ra 0 Vo_comp 5.6k
R4 Vref_comp Vref 12k
R5 0 Vref_comp 10k
Rg VG N002 56 pwr=0.65
R1 N001 Vo_comp 470
RT N004 0 2.7k
Cd Vmed 0 100n
Vo Vmed 0 PULSE(15 17 0 20u 20u 0 40u)
R2 PWM_in N001 10k
* fsw= 2/(CT*(RT*0.7))
* Con CT=3.3nF y RT = 2.8kOhm\n=> fsw = 75KHz
.inc SG3525A.sub
* Frecuencia
* Divisor Vo
* Divisor Vref
.tran 0 100u 0 0.1u
* Entrada
* Simulación
.backanno
.end
